US07906546B2
To a stirred solution of 1.40 g (5.5 mmol) of acetic acid N′-(2-benzenesulfonyl-acetyl)-hydrazide in 50 mL of acetonitrile, 1.02 g (6.5 mmol, 1.2 eq) of phosphorus oxychloride were added, and the solution heated at reflux for 3 hours. The reaction mixture was diluted with water, extracted with EtOAc, the organic phase dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel with EtOAc yielded 0.90 g (70%) of 2-benzenesulfonylmethyl-5-methyl-[1,3,4]oxadiazole as a white solid, MS: 239 (MH+).

reactant | acetic acid N′-(2-benzenesulfonyl-acetyl)-hydrazide | 5.5 mmol, 1.40 g | C1(=CC=CC=C1)S(=O)(=O)CC(=O)NNC(C)=O | C10H12N2O4S
reactant | phosphorus oxychloride | 6.5 mmol, 1.02 g, 1.2 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-benzenesulfonylmethyl-5-methyl-[1,3,4]oxadiazole | 0.90 g, 70% | C1(=CC=CC=C1)S(=O)(=O)CC=1OC(=NN1)C | C10H10N2O3S
